US05206255
In 50 ml of dichloromethane, were dissolved 6.09 g of 4-hydroxyphenyl acetic acid and 7.96 g of phenacyl bromide were dissolved, to which 5.6 ml of triethylamine was added and stirred at room temperature for 2 days. After washing the reaction solution with a 10% hydrochloric acid, it was further washed with an aqueous saturated solution of sodium hydrogen carbonate. After distilling off the dichloromethane under a reduced pressure from the solution, the residue was dissolved in 80 ml of acetic acid and refluxed for three hours with addition of 12.3 g of ammonium acetate. The acetic acid was distilled off under a reduced pressure from the solution. The residue was dissolved in dichloromethane, washed with a 10% hydrochloric acid and an aqueous saturated solution of sodium hydrogen carbonate, and then, the dichloromethane layer was collected. After drying the liquid extract over magnesium sulfate, it was concentrated under a reduced pressure, adsorbed on silica gel column, eluted with chloroform and then crystallized from isopropyl ether to obtain 3.65 g of 2-(4-hydroxybenzyl)-4-phenyloxazole having the melting point of 122° to 124° C.

reactant | 4-hydroxyphenyl acetic acid | 6.09 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | phenacyl bromide | 7.96 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-hydroxybenzyl)-4-phenyloxazole | 3.65 g | OC1=CC=C(CC=2OC=C(N2)C2=CC=CC=C2)C=C1 | C16H13NO2
